US04659853
Again following the procedure of Example 1, to 1.31 parts of the ethoxycarbonyl isothiocyanate in 6 parts of methylene chloride are added 1.31 parts of butoxypropylamine. After 2 hours at room temperature, the methylene chloride is evaporated off. The viscous liquid product N-ethoxycarbonyl-N'-n-butoxypropyl thiourea (2.6 parts) gives the correct IR analysis.

reactant | ethoxycarbonyl isothiocyanate | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | butoxypropylamine | C(CCC)OCCCN | C7H17NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-ethoxycarbonyl-N'-n-butoxypropyl thiourea | C(C)OC(=O)NC(=S)NCCCOCCCC | C11H22N2O3S
